US05112988
A solution of 1,1-bis(3-tolyl)-2-methoxyethanol (24.66 g) (obtained by the reaction of 3-tolylmagnesium bromide with methyl 2-ethoxyacetate in tetrahydrofuran) in formic acid (30 cc) is heated to reflux for 12 hours, cooled and poured into a mixture of saturated sodium carbonate solution (400 cc) and ethyl acetate (400 cc). The organic phase is washed with water (3×300 cc) and with saturated sodium chloride solution (300 cc) then dried and concentrated to dryness under reduced pressure (2.7 kPa) to give bis(3-tolyl)acetaldehyde (20.45 g) in the form of a yellow oil.

reactant | 3-tolylmagnesium bromide | C1(=CC(=CC=C1)[Mg]Br)C
reactant | methyl 2-ethoxyacetate | C(C)OCC(=O)OC | C5H10O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | formic acid | 30 cc | C(=O)O | CH2O2
product | 1,1-bis(3-tolyl)-2-methoxyethanol | 24.66 g | C1(=CC(=CC=C1)C(COC)(O)C=1C=C(C=CC1)C)C | C17H20O2
